US07667065B2
Synthesis of (1,3-dimethylcyclopentadienyl)(2,4-dimethylpentadienyl)ruthenium
A dry 1 liter 3-neck round-bottom flask was charged with a magnetic stir bar and equipped with three septa. A nitrogen purge was introduced through a needle with output, also via a needle, to an oil bubbler. A thermocouple lead was placed through a side neck septa. Excess zinc (150 grams, ‘dust’ was found more conducive to stirring) was added to the flask. By syringe, 2,4-dimethyl-1,3-pentadiene (25 grams, 0.26 mol) was added to the flask. By cannula, ruthenium trichloride hydrate (6.0 grams, 0.023 mol based on 3 hydrate equivalents) was added as a methanol (250 milliliters) solution in spurts of about 10 milliliters over 45 minutes. The mixture was stirred for 30 minutes at 25° C. after the addition was complete, then, upon equipping a condenser, the contents were brought to gentle reflux. Stirring was continued for 2 hours. The mixture was cooled to 25° C., followed by the addition of freshly distilled 1,3-dimethylcyclopentadiene (2.2 grams, 0.023 mol) by syringe over 20 minutes. Stirring was continued at 25° C. for 20 additional minutes, followed by gentle reflux for 2 hours.

reactant | 2,4-dimethyl-1,3-pentadiene | 0.26 mol, 25 grams | CC(=C)C=C(C)C | C7H12
reactant | ruthenium trichloride hydrate | 0.023 mol, 6.0 grams | O.[Ru](Cl)(Cl)Cl
reactant | 1,3-dimethylcyclopentadiene | 0.023 mol, 2.2 grams | CC1=CC(=CC1)C | C7H10
solvent | methanol | 250 milliliters | CO | CH4O
product | (1,3-dimethylcyclopentadienyl)(2,4-dimethylpentadienyl)ruthenium | CC1(C=C(C=C1)C)[Ru]C=C(C=C(C)C)C | InChI=1S/C7H9.C7H11.Ru/c1-6-3-4-7(2)5-6;1-6(2)5-7(3)4;/h3-5H,1-2H3;1,5H,2-4H3;
